Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left knee pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 ___ year old gentleman with ___ Disease and prostate 
cancer s/p Lupron and cyberknife XRT presenting with ___ days of 
LLE pain and swelling. Patient initially saw orthopedics with 
these symptoms and had left tib/fib radiographs which were 
unremarkable for fractures. He continued to have persistent 
symptoms and presented to ___ ED for further evaluation.  
 -In the ED, initial VS were: T 97 HR 78 BP 115/77 RR 18 SpO2 
100% RA  
 - Exam notable for: no distress, motor depression noted, no 
cogwheeling, LLE edema particularly at and below ankle  
 - Labs notable for: WBC 8.3, H/H 13.5/42.4, Cr 1.1, 
unremarkable Chem 7  
 - Imaging was notable for: Lower extremity U/S notable for deep 
vein thrombosis of the left popliteal and posterior tibial 
veins.  
 Left peroneal vein is not visualized. No evidence of deep vein 
thrombosis in the deep venous system of the right  
 leg.  
 - Patient was given: SC Enoxaparin Sodium 90 mg, PO/NG 
Carbidopa-Levodopa (___) 1.5 TAB, PO Zonisamide 200 mg 
___  
 - ___ VS were: T 98.3 HR 76 BP 135/72 RR 18 SpO2 100% RA  
 Upon arrival to the floor, patient reports ongoing LLE pain and 
swelling, but overall improving. Of note, the patient has been 
having platelet rich plasma therapy injections to both knees for 
arthritis. He reports his last injection was two weeks ago. He 
also reports a recent flight from ___ to the 
___. He otherwise denies any smoking, new medications, or 
prolonged immobilization. He denies any family history of blood 
clots.  
 
 REVIEW OF SYSTEMS:  
 As per HPI, otherwise negative in detail  
 
Past Medical History:
-___ Disease  
-Prostate Cancer s/p Lupron and Cyberknife XRT  
 
Social History:
___
Family History:
Denies family history of thrombosis or coagulopathy.
 
Physical Exam:
ADMISSION:
VS T 98.0 BP 100/63 HR 77 RR 20 SpO2 96 % RA, Wt 187 lbs (84.8 
kg)  
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL.  
 Neck: Supple. JVP not elevated. no LAD  
 CV: RRR. Normal S1+S2, no murmurs, rubs, gallops.  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no  
 GU: No foley  
 Ext: L calf appears larger and more edematous than R calf, mild 
tenderness along L calf, full pulses  
 Neuro: Resting tremor, cogwheel rigidity, otherwise moving all 
extremities with purpose, no facial asymmetry, gait deferred 

DISCHARGE:
VS T 98.0 BP 100/63 HR 77 RR 20 SpO2 96 % RA, Wt 187 lbs (84.8 
kg)  
 General: Alert, oriented, no acute distress. Pleasant.  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, PERRL.  
 Neck: Supple. JVP not elevated.
 CV: RRR. Normal S1+S2, no murmurs, rubs, gallops.  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no  
 Ext: L calf appears larger and more edematous than R calf, mild 
tenderness along L calf, full pulses. L calf is warmer. 
 Neuro: Resting tremor, cogwheel rigidity, otherwise moving all 
extremities with purpose, no facial asymmetry, gait deferred  
 
Pertinent Results:
ADMISSION LABS:
================
___ 07:50PM   PLT COUNT-426*
___ 07:50PM   NEUTS-67.5 LYMPHS-15.2* MONOS-10.2 EOS-5.2 
BASOS-1.2* IM ___ AbsNeut-5.63 AbsLymp-1.27 AbsMono-0.85* 
AbsEos-0.43 AbsBaso-0.10*
___ 07:50PM   WBC-8.3 RBC-4.58* HGB-13.5* HCT-42.4 MCV-93 
MCH-29.5 MCHC-31.8* RDW-14.2 RDWSD-48.1*
___ 07:50PM   estGFR-Using this
___ 07:50PM   GLUCOSE-93 UREA N-19 CREAT-1.1 SODIUM-141 
POTASSIUM-4.3 CHLORIDE-105 TOTAL CO2-24 ANION GAP-16

IMAGES/STUDIES:
================
___:
IMPRESSION: 
1.  Deep vein thrombosis of the left popliteal and posterior 
tibial veins. 
Left peroneal vein is not visualized.
2.  No evidence of deep vein thrombosis in the deep venous 
system of the right
leg.

DISCHARGE LABS:
================
___ 06:11AM BLOOD WBC-6.6 RBC-4.33* Hgb-12.7* Hct-39.9* 
MCV-92 MCH-29.3 MCHC-31.8* RDW-14.1 RDWSD-48.1* Plt ___
___ 06:11AM BLOOD Glucose-85 UreaN-18 Creat-1.0 Na-143 
K-4.0 Cl-108 HCO3-21* AnGap-18
___ 06:11AM BLOOD Calcium-9.2 Phos-3.1 Mg-2.___ year old gentleman with ___ Disease and prostate 
cancer s/p Lupron and cyberknife XRT presenting with several 
weeks of intermittent LLE pain and swelling now found to have 
LLE DVT (left popliteal and posterior tibial veins). Patient 
denied any shortness of breath, chest pain. Did endorse a trauma 
to his left shin several weeks prior while on vacation in ___. 
___, which is what likely provoked his DVT. 

Patient received Lovenox in ED and was then transitioned to 
Apixaban per his preference in terms of ease of administration 
in the setting of known tremor. Discussed risks and benefits of 
apixaban vs lovenox in the setting of history of prostate cancer 
(possible higher risk of recurrent clot with apixaban) and 
patient and team in agreement with apixaban over lovenox. Plan 
is for Apixaban 10mg BID x 7 days (___), then Apixaban 5mg 
BID for at least 3 months for treatment of provoked DVT. 

At discharge, patient able to ambulate on his own with out 
issues and so ___ did not feel he should be evaluated given how 
independent he was. 

TRANSITIONAL ISSUES
=======================
[] Apixaban 10mg BID x 7 days (___)
[] Apixaban 5mg BID x at least 3 months
[] Can consider longer duration given known history of prostate 
cancer
[] Patient's copay was high, however was able to receive 30 day 
free supply by ___. Will need prior authorization by PCP.
[] PCP appointment, ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fludrocortisone Acetate 0.1 mg PO QHS 
2. Sodium Bicarbonate 325 mg PO TID 
3. Zonisamide 200 mg PO BID 
4. trospium 60 mg oral QDAILY 
5. Carbidopa-Levodopa (___) 1.5 TAB PO QID 
6. sildenafil 50 mg oral Q24H:PRN sexual activity 
7. Vitamin D 5000 UNIT PO DAILY 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID Duration: 7 Days 
RX *apixaban [Eliquis] 5 mg 2 tablet(s) by mouth twice a day 
Disp #*90 Tablet Refills:*0 
2.  Carbidopa-Levodopa (___) 1.5 TAB PO QID  
3.  Fludrocortisone Acetate 0.1 mg PO QHS  
4.  sildenafil 50 mg oral Q24H:PRN sexual activity  
5.  Sodium Bicarbonate 325 mg PO TID  
6.  trospium 60 mg oral QDAILY  
7.  Vitamin D 5000 UNIT PO DAILY  
8.  Zonisamide 200 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
====================
Deep vein thrombosis

SECONDARY DIAGNOSIS
=====================
History of prostate cancer
Parkinsons Disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to care for you at ___. You came to our 
hospital with leg pain and swelling and were found to have a 
blood clot in your leg. This is likely caused by the trauma that 
you had while on vacation. 

We started you on a blood thinner, please make sure to continue 
this and Dr. ___ will follow this up with you. Do not stop 
unless a doctor tells you to stop. 

You will take TWO tablets for a total of 10mg TWICE per day for 
SEVEN days (last day ___ should be last day). Then, switch 
to ONE tablet for a total of 5mg TWICE per day for the remained 
of days until you are told to stop by a physician. 

Return to hospital if any shortness of breath, chest pain, 
worsening swelling.

We wish you the best,

Your ___ Team
 
Followup Instructions:
___